US07935674B2
4-Chloro-1-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyl)-indole obtained in Example 1-(3) and 4-bromobenzoyl chloride were treated in a manner similar to Example 2-(4) to give 4-bromophenyl 4-chloro-1-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyl)-indol-3-yl ketone as a colorless powder. APCI-Mass m/Z 664/666 (M+H). 1H-NMR (DMSO-d6) δ 1.69 (s, 3H), 1.97 (s, 3H), 1.98 (s, 3H), 2.04 (s, 3H), 4.11 (d, J=4.2 Hz, 2H), 4.30 (ddd, J=10.0, 4.3 and 4.2 Hz, 1H), 5.28 (t, J=9.8 Hz, 1H), 5.58 (t, J=9.6 Hz, 1H), 5.93 (t, J=9.4 Hz, 1H), 6.33 (d, J=9.0 Hz, 1H), 7.29 (d, J=7.5 Hz, 1H), 7.38 (t, J=8.0 Hz, 1H), 7.73-7.77 (m, 4H), 7.80 (d, J=8.2 Hz, 1H), 8.17 (s, 1H).

reactant | 4-Chloro-1-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyl)-indole | ClC1=C2C=CN(C2=CC=C1)[C@H]1[C@H](OC(C)=O)[C@@H](OC(C)=O)[C@H](OC(C)=O)[C@H](O1)COC(C)=O | C22H24ClNO9
reactant | 4-bromobenzoyl chloride | BrC1=CC=C(C(=O)Cl)C=C1 | C7H4BrClO
product | 4-bromophenyl 4-chloro-1-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyl)-indol-3-yl ketone | ClC1=C2C(=CN(C2=CC=C1)[C@H]1[C@H](OC(C)=O)[C@@H](OC(C)=O)[C@H](OC(C)=O)[C@H](O1)COC(C)=O)C(=O)C1=CC=C(C=C1)Br | C29H27BrClNO10
